US07163936B2
A solution of lithium hexamethyldisilazide in THE (1M, 1.26 ml, 1.26 mmol) was added at 0° C. to a solution of allyl (6S)-6-methyl-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2H)-pyridine carboxylate (373 mg, 1.26 mmol) in THF (15 ml) and the mixture was stirred for 10 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 4.80 g, 2.52 mmol) and the solution was allowed to stand in a refrigerator for 60 hours. To the reaction solution was added ice water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate) to give allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (590 mg, 76%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl (6S)-6-methyl-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2H)-pyridine carboxylate | 1.26 mmol, 373 mg | C[C@H]1C=C(CCN1C(=O)OCC=C)C=1N=C(SC1)S | C13H16N2O2S2
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 2.52 mmol, 4.80 g | C(C)#N | C2H3N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 590 mg, 76% | C(C=C)OC(=O)N1CCC(=C[C@@H]1C)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C | C29H39N3O6S2Si
